US07855202B2
4-{2-[6-(3-Fluoro-pyridin-4-yl)-5-pyridin-3-yl-3H-imidazo[4,5-b]pyridin-2-yl]-ethyl}-benzoic acid
A solution of 4-[2-(6′-Amino-3″-fluoro-[3,2′;3′,4″]terpyridin-5′-ylcarbamoyl)-ethyl]-benzoic acid tert-butyl ester (0.135 g, 0.263 mmol) in acetic acid (2 mL) was heated in a sealed tube at 118° C. for 16 h. The solvent was evaporated and ethyl acetate was added. The solid formed was filtered and washed with 4% sodium bicarbonate aqueous solution, water and dried to give the title compound (0.08 g, 69% of yield).

reactant | 4-[2-(6′-Amino-3″-fluoro-[3,2′;3′,4″]terpyridin-5′-ylcarbamoyl)-ethyl]-benzoic acid tert-butyl ester | 0.263 mmol, 0.135 g | C(C)(C)(C)OC(C1=CC=C(C=C1)CCC(NC=1C=C(C(=NC1N)C=1C=NC=CC1)C1=C(C=NC=C1)F)=O)=O | C29H28FN5O3
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 4-{2-[6-(3-Fluoro-pyridin-4-yl)-5-pyridin-3-yl-3H-imidazo[4,5-b]pyridin-2-yl]-ethyl}-benzoic acid | 0.08 g, 69% | FC=1C=NC=CC1C=1C=C2C(=NC1C=1C=NC=CC1)NC(=N2)CCC2=CC=C(C(=O)O)C=C2 | C25H18FN5O2
